US07141567B2
D. 8-Amino-7-[2,3-epoxy-1-oxo-3-(3-thienyl)propyl]-2,3-dimethylimidazo[1,2-a]pyridine
A suspension of 2.6 9 of 8-amino-2,3-dimethyl-7-[3-(3-thienyl)-1-oxo-2-propenyl]imidazo[1,2-a]pyridine in 80 ml of ethanol is treated successively with 5.2 ml of 6 N aqueous sodium hydroxide solution and 5 ml of 30% strength aqueous hydrogen peroxide solution, stirred at room temperature for 48 hours, poured onto 200 ml of ice water and adjusted to pH 7–8 with semisatd. aqueous hydrochloric acid. The mixture is then extracted three times with 100 ml of dichloromethane each time, the combined organic phases are washed once with saturated sodium thiosulfate solution and once with 100 ml of distilled water, the solvent is stripped off in vacuo and the residue is purified on silica gel (eluent:methylene chloride/methanol=100/3). 1.2 g of the title compound of m.p. 186–89° C. (diethyl ether) are obtained.

reactant | 8-amino-2,3-dimethyl-7-[3-(3-thienyl)-1-oxo-2-propenyl]imidazo[1,2-a]pyridine | NC=1C=2N(C=CC1C(C=CC1=CSC=C1)=O)C(=C(N2)C)C | C16H15N3OS
reactant | sodium hydroxide | 6 N, 5.2 ml | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 8-Amino-7-[2,3-epoxy-1-oxo-3-(3-thienyl)propyl]-2,3-dimethylimidazo[1,2-a]pyridine | 1.2 g | NC=1C=2N(C=CC1C(C1C(C3=CSC=C3)O1)=O)C(=C(N2)C)C | C16H15N3O2S
